US08106070B2
1-[4-(5-fluoropyridin-2-yl)phenyl]-2-{4-[2-methyl-2-(trifluoromethyl)but-3-en-1-yl]-1H-imidazol-2-yl}propan-2-ol
Hydrogen chloride (4 M in 1,4-dioxane) (2 mL, 8 mmol) was added to an ambient temperature solution of 2-{2-[4-(5-fluoropyridin-2-yl)phenyl]-1-hydroxy-1-methylethyl}-N,N-dimethyl-4-[2-methyl-2-(trifluoromethyl)but-3-en-1-yl]-1H-imidazole-1-sulfonamide (150 mg, 0.28 mmol) in methanol (4 mL). After stirring at 70° C. for 1 h, volatiles were removed. Chromatography over silica eluting with 0-80% acetone/methylene chloride afforded the title compound. (M+H) found: 434.

reactant | Hydrogen chloride | 8 mmol, 4 M, 2 mL | Cl | ClH
reactant | 2-{2-[4-(5-fluoropyridin-2-yl)phenyl]-1-hydroxy-1-methylethyl}-N,N-dimethyl-4-[2-methyl-2-(trifluoromethyl)but-3-en-1-yl]-1H-imidazole-1-sulfonamide | 0.28 mmol, 150 mg | FC=1C=CC(=NC1)C1=CC=C(C=C1)CC(C)(O)C=1N(C=C(N1)CC(C=C)(C(F)(F)F)C)S(=O)(=O)N(C)C | C25H28F4N4O3S
solvent | methanol | 4 mL | CO | CH4O
product | 1-[4-(5-fluoropyridin-2-yl)phenyl]-2-{4-[2-methyl-2-(trifluoromethyl)but-3-en-1-yl]-1H-imidazol-2-yl}propan-2-ol | FC=1C=CC(=NC1)C1=CC=C(C=C1)CC(C)(O)C=1NC=C(N1)CC(C=C)(C(F)(F)F)C | C23H23F4N3O
